US04051153
Treatment of rac. methyl-3-hydroxy-2-methylpropionate with isobutylene using the procedure described in Example 1 gave rac.-methyl 3-tert. butoxy-2-methylpropionate in 43.5% yield as a colorless liquid, b.p. 75°-85° C. (bath temperature) (11 mm Hg.).

reactant | rac. methyl-3-hydroxy-2-methylpropionate | COC(C(CO)C)=O | C5H10O3
reactant | isobutylene | CC(C)=C | C4H8
product | rac.-methyl 3-tert. butoxy-2-methylpropionate | 43.5% yield | C(C)(C)(C)OCC(C(=O)OC)C | C9H18O3
